### ISSUE TITLE
Suggest `have h` when `replace h` introduces a new hypothesis

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#56]
We could add a linter to detect when `replace h` is used, but `h` didn't exist and suggest using `have h` instead.

e.g detect:

```lean
example (n : ℕ) : n = n := by
  replace h : n = n := rfl
  exact h
```

and suggest:

```lean
example (n : ℕ) : n = n := by
  have h : n = n := rfl
  exact h
```

Originally suggested by @JovanGerb.
